US08957093B2
Step 8: (S)-tert-Butyl 4′-((5-(1-(4-bromophenyl)ethylcarbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)biphenyl-2-carboxylate
To a mixture of 1-((2′-(tert-butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid (46 mg, 0.1 mmol) in DMF (1 mL) was added DIEA (26 mg, 0.2 mmol) and HATU (46 mg, 0.12 mmol). The mixture was stirred for 5 min, and then (S)-1-(4-bromophenyl)ethanamine (20 mg, 0.13 mmol) was added. The reaction mixture was stirred at rt for 30 min. The completion of the reaction was monitored by anal. HPLC. The solvent was removed in vacuo to obtain the crude which was purified by flash chromatography (AcOEt/Hex 10→100%) to obtain the title compound. ESI-MS (m/z): 637/639 [M+H]+.

reactant | 1-((2′-(tert-butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid | 0.1 mmol, 46 mg | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)O)C)C | C29H29NO4
reactant | DIEA | 0.2 mmol, 26 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.12 mmol, 46 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (S)-1-(4-bromophenyl)ethanamine | 0.13 mmol, 20 mg | BrC1=CC=C(C=C1)[C@H](C)N | C8H10BrN
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (S)-tert-Butyl 4′-((5-(1-(4-bromophenyl)ethylcarbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)biphenyl-2-carboxylate | BrC1=CC=C(C=C1)[C@H](C)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C)C | C37H37BrN2O3
